US06265426B1
3-[5-(4-Methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzylamine hydrochloride (1:1) (mixture of tautomers)
A solution of 3-(3-azidomethyl-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,4]triazole (980 mg, 3.2 mmol) in acetonitrile (40 ml) was treated with triphenyl phosphine (839 mg, 3.2 mmol) and water (288 mg, 16 mmol) at 20° C. for 20 min, then for 30 min. at 60° C. Upon cooling the product mixture was filtered, the solvent was evaporated and the residue chromatographed over 20 g SiO2 (Merck 230-400 mesh) with CH2Cl2-MeOH (2M NH3) 97:3 affording a solid after evaporation of the solvent. This material was dissolved in ethanol at r.t. and an excess 2N HCl/ether solution (2.0 ml, 4 mmol) was added. After 30 min. the precipitate was filtered off, washed with ether and dried under high vacuum at 60° C. overnight affording the title compound (700 mg, 69% yield) as a white solid. MS: m/e=281.3 (M+H+).

reactant | 3-(3-azidomethyl-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,4]triazole | 3.2 mmol, 980 mg | N(=[N+]=[N-])CC=1C=C(C=CC1)C1=NNC(=N1)C1=CC=C(C=C1)OC | C16H14N6O
reactant | triphenyl phosphine | 3.2 mmol, 839 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 16 mmol, 288 mg | O | H2O
reactant | HCl ether | 4 mmol, 2N, 2.0 ml | Cl.CCOCC
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-[5-(4-Methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzylamine hydrochloride | 700 mg, 69% yield | Cl.COC1=CC=C(C=C1)C1=NC(=NN1)C=1C=C(CN)C=CC1 | InChI=1S/C16H16N4O.ClH/c1-21-14-7-5-12(6-8-14)15-18-16(20-19-15)13-4-2-3-11(9-13)10-17;/h2-9H,10,17H2,1H3,(H,18,19,20);1H
